US07943647B2
16.74 g (80 mmol) of the “4-hydroxymethyl-biphenyl-2-carbonitrile” is suspended in 100 ml of dry xylene (isomer mixture) under argon. To this suspension is added at room temperature under stirring 0.636 g (80 mmol) of lithium hydride. The suspension is stirred for an additional 4 hours at 120° C. external temperature and a solution of 160 mmol diethylaluminium azide in toluene (which is prepared separately by stirring 160 mmol of diethylaluminium chloride and 160 mmol of sodium azide in xylene [isomer mixture] at room temperature overnight) is added via syringe. The reaction mixture is heated to reflux (˜120° C.), external temperature ca. 140° C. Conversion is controlled by HPLC analysis. After refluxing for 24 hours the reaction mixture is cooled to room temperature and finally quenched with a solution of 300 mmol of sodium nitrite and of 15% sodium hydroxide (240 mmol). Finally 95 ml of conc. HCl is added under stirring. To the resulting suspension is added at room temperature under stirring 31 g (320 mmol) of 65% nitric acid. The suspension is stirred for an additional 6 hours at 60° C. external temperature (internal Temperature=55° C.). Finally the product is isolated by filtration. The crude 2′-(1H-tetrazol-5-yl)-biphenyl-4-carbaldehyde is obtained.

reactant | 4-hydroxymethyl-biphenyl-2-carbonitrile | OCC=1C=C(C(=CC1)C1=CC=CC=C1)C#N | C14H11NO
reactant | lithium hydride | 80 mmol, 0.636 g | [H-].[Li+]
reactant | diethylaluminium azide | 160 mmol | [N-]=[N+]=[N-].C(C)[Al+]CC
reactant | diethylaluminium chloride | 160 mmol | [Cl-].C(C)[Al+]CC
reactant | sodium azide | 160 mmol | [N-]=[N+]=[N-].[Na+]
reactant | sodium nitrite | 300 mmol | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 240 mmol | [OH-].[Na+]
reactant | HCl | 95 ml | Cl | ClH
reactant | nitric acid | 320 mmol, 31 g | [N+](=O)(O)[O-] | HNO3
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2′-(1H-tetrazol-5-yl)-biphenyl-4-carbaldehyde | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H10N4O
